US06046216
N,N-Dimethyl-3-(3-cyano-1,2-dihydro-2-oxo-6-pyridinyl)-4-propoxybenzamide
In a similar method to that of Example 16, methyl 3-(3-cyano-1,2-dihydro-2-oxo-6-pyridinyl)-4-propoxybenzoate (2.14 g) was saponified, converted into the acid chloride and treated with dimethylamine to give 2.0 g of a solid. This was combined with a further 0.2 g obtained in a similar manner, and purified by flash chromatography to give 1.9 g of solid m.p. 201-202° C. Recrystallization of part of this gave the title compound, m.p. 214-215° C.

reactant | methyl 3-(3-cyano-1,2-dihydro-2-oxo-6-pyridinyl)-4-propoxybenzoate | 2.14 g | C(#N)C=1C(NC(=CC1)C=1C=C(C(=O)OC)C=CC1OCCC)=O | C17H16N2O4
reactant | dimethylamine | CNC | C2H7N
product | N,N-Dimethyl-3-(3-cyano-1,2-dihydro-2-oxo-6-pyridinyl)-4-propoxybenzamide | 2.0 g | CN(C(C1=CC(=C(C=C1)OCCC)C1=CC=C(C(N1)=O)C#N)=O)C | C18H19N3O3
